US04525475
1-(bicyclo[2.2.1]hept-5-en-2-ylmethyl)imidazole;
1-[2-(adamantan-1-yl)ethyl]imidazole, 1-(2-cyclohexenespirocyclobutan-3'-ylmethyl)imidazole, 1-(6,6-dimethylbicyclo[3.1.1]hept-2-en-2-ylmethyl)imidazole, 1-[2-(3,3-dimethylbicyclo[2.2.1]heptan-2-ylidene)ethyl]imidazole, 1-(1-azabicyclo[2.2.2]octan-3-ylmethyl)imidazole, 1-(8-methyl-8-azabicyclo[3.2.1]octan-3-ylmethyl)imidazole.

reactant | 1-[2-(adamantan-1-yl)ethyl]imidazole | C12(CC3CC(CC(C1)C3)C2)CCN2C=NC=C2 | C15H22N2
reactant | 1-(2-cyclohexenespirocyclobutan-3'-ylmethyl)imidazole | C12(CC(C1)CN1C=NC=C1)C=CCCC2 | C13H18N2
reactant | 1-(6,6-dimethylbicyclo[3.1.1]hept-2-en-2-ylmethyl)imidazole | CC1(C2CC=C(C1C2)CN2C=NC=C2)C | C13H18N2
reactant | 1-[2-(3,3-dimethylbicyclo[2.2.1]heptan-2-ylidene)ethyl]imidazole | CC1(C(C2CCC1C2)=CCN2C=NC=C2)C | C14H20N2
reactant | 1-(1-azabicyclo[2.2.2]octan-3-ylmethyl)imidazole | N12CC(C(CC1)CC2)CN2C=NC=C2 | C11H17N3
reactant | 1-(8-methyl-8-azabicyclo[3.2.1]octan-3-ylmethyl)imidazole | CN1C2CC(CC1CC2)CN2C=NC=C2 | C12H19N3
product | 1-(bicyclo[2.2.1]hept-5-en-2-ylmethyl)imidazole | C12C(CC(C=C1)C2)CN2C=NC=C2 | C11H14N2
